US09029405B2
Step 1: methyl 2′-(difluoromethyl)-2-methylbiphenyl-4-carboxylate
A mixture of methyl 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (Combiblocks PN-8756, 1.9 g, 6.7 mmol), 1-bromo-2-difluoromethyl-benzene (Fluorochem 023878, 1.7 g, 8.1 mmol), cesium fluoride (3.1 g, 20 mmol) and PdCl2(PPh3)2 (142 mg, 0.20 mmol) was prepared in dioxane (20 mL) and water (10 mL) under N2 atmosphere. The resulting mixture was heated at 90° C. for 2 hours. The reaction mixture was diluted with MTBE (60 mL), and then washed with water (2×50 mL) and brine (50 mL). The aqueous layers were extracted with MTBE (50 mL). The organic layers were combined, dried (MgSO4) and concentrated under reduced pressure. After purification by flash chromatography (silica, DCM/heptane), the title compound was obtained as a colorless oil (1.4 g, 76%). HPLC (Method A) Rt 5.0 min (purity: 99.1%). 1H NMR (DMSO-d6, 300 MHz) δ 7.93 (s, 1H), 7.84 (dd, J=7.9, 1.4 Hz, 1H), 7.75 (m, 1H), 7.67-7.56 (m, 2H), 7.28 (m, 2H), 6.55 (t, J=55 Hz, 1H), 3.88 (s, 3H), 2.06 (s, 3H).

reactant | methyl 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 6.7 mmol, 1.9 g | CC=1C=C(C(=O)OC)C=CC1B1OC(C(O1)(C)C)(C)C | C15H21BO4
reactant | 1-bromo-2-difluoromethyl-benzene | 8.1 mmol, 1.7 g | BrC1=C(C=CC=C1)C(F)F | C7H5BrF2
reactant | cesium fluoride | 20 mmol, 3.1 g | [F-].[Cs+]
reactant | water | 10 mL | O | H2O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | MTBE | 60 mL | CC(C)(C)OC | C5H12O
catalyst | PdCl2(PPh3)2 | 0.20 mmol, 142 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 2′-(difluoromethyl)-2-methylbiphenyl-4-carboxylate | FC(C1=C(C=CC=C1)C1=C(C=C(C=C1)C(=O)OC)C)F | C16H14F2O2
